US07354933B2
Preparation of (R)-5-methyl-1-(3-methylpyrid-4-ylmethyl)-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 0.04 mmol of resin, 0.12 mmol of N-Fmoc-D-Ala(OH), 0.20 mmol of 3-methyl-4-pyridinecarboxaldehyde and 0.10 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 6.3 mg of expected product are obtained.

reactant | N-Fmoc-D-Ala(OH) | 0.12 mmol | N([C@H](CO)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO5
reactant | 3-methyl-4-pyridinecarboxaldehyde | 0.20 mmol | CC=1C=NC=CC1C=O | C7H7NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 0.10 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | (R)-5-methyl-1-(3-methylpyrid-4-ylmethyl)-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | FC(C(=O)O)(F)F.C[C@@H]1C(N(C(N1CC1=C(C=NC=C1)C)=O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | InChI=1S/C18H16F3N3O4S.C2HF3O2/c1-11-9-22-8-7-13(11)10-23-12(2)16(25)24(17(23)26)14-3-5-15(6-4-14)29(27,28)18(19,20)21;3-2(4,5)1(6)7/h3-9,12H,10H2,1-2H3;(H,6,7)/t12-;/m1./s1
